US05302720
A suspension of N-(4-fluoro-2-biphenylyl)thiourea (11 g) in water (70 ml) was reacted with a solution of potassium hydroxide (25.2 g) in water (70 ml). Lead acetate trihydrate (17 g) in water (70 ml) was added and the reaction mixture heated at 90°-95° C. for 40 minutes to give 4-fluoro-2-biphenylylcyanamide (m.p. 68°-70° C.).

reactant | N-(4-fluoro-2-biphenylyl)thiourea | 11 g | FC1=CC(=C(C=C1)C1=CC=CC=C1)NC(=S)N | C13H11FN2S
reactant | potassium hydroxide | 25.2 g | [OH-].[K+]
reactant | Lead acetate trihydrate | 17 g | O.O.O.C(C)(=O)[O-].[Pb+2].C(C)(=O)[O-]
solvent | water | 70 ml | O | H2O
solvent | water | 70 ml | O | H2O
solvent | water | 70 ml | O | H2O
product | 4-fluoro-2-biphenylylcyanamide | FC1=CC(=C(C=C1)C1=CC=CC=C1)NC#N | C13H9FN2
